### PR TITLE
[Merged by Bors] - feat(Mathlib.NumberTheory.FLT.Three): add various results

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add various results needed to prove flt3.

From the flt3 project at LFTCM2024.

---

I've stopped at a random point to keep the PR around 300 lines. The next one will surely be the final one.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 1]
```diff
@@ -342,6 +343,295 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  · refine (hp.dvd_or_dvd ?_).resolve_left p_lam
+    rw [show λ * S.a = η * (S.a + η * S.b) - (S.a + η ^ 2 * S.b) by rw [coe_eta]; ring]
+    exact dvd_mul_of_dvd_right hpaetab _ |>.sub hpaetasqb
+  · refine (hp.dvd_or_dvd ?_).resolve_left p_lam
+    rw [← (Units.isUnit η).dvd_mul_left, show η * (λ * S.b) = (S.a + η ^ 2 * S.b) - (S.a + η * S.b)
+      by rw [coe_eta]; ring]
+    exact hpaetasqb.sub hpaetab
+
+/-- Given `S : Solution`, we let `S.y` be any element such that `S.a + η * S.b = λ * S.y` -/
+noncomputable def y := (lambda_dvd_a_add_eta_mul_b S).choose
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/FLT/Three.lean:445]: All the various `y`, `z`, `w` etc are mathematically arbitrary elements that satisfy the `spec` lemma. Technically, using `choose_spec` we fix one single elements, and all the proofs are wrt this fixed elements, not an arbitrary one. Usually this is a bad idea, but here I think it is OK:
* the notation is nicer (we don't have to keep `{y} (hy)` around
* All the lemmas are useful only to prove flt3, and will never be used for something else.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 2]
```diff
@@ -342,6 +344,295 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+    simp only [IsUnit.unit_spec, RingOfIntegers.neg_mk, neg_add_cancel_comm, map_add,
+      RingOfIntegers.map_mk, map_neg, map_pow, map_one, this, neg_zero, zero_add]
+
+/-- If `p : 𝓞 K` is a prime that divides both `S.a + S.b` and `S.a + η * S.b`, then `p`
+is associated with `λ`. -/
+lemma associated_of_dvd_a_add_b_of_dvd_a_add_eta_mul_b {p : 𝓞 K} (hp : Prime p)
+    (hpab : p ∣ S.a + S.b) (hpaetab : p ∣ S.a + η * S.b) : Associated p λ := by
+  by_cases p_lam : (p ∣ λ)
+  · exact hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
+  exfalso
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:401]: I think this would flow more logically:
```suggestion
  suffices p_lam : p ∣ λ from hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
  by_contra p_lam
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 3]
```diff
@@ -342,6 +344,295 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+    rw [show λ * S.b = (S.a + η * S.b) - (S.a + S.b) by rw [coe_eta]; ring]
+    exact dvd_sub hpaetab hpab
+
+/-- If `p : 𝓞 K` is a prime that divides both `S.a + S.b` and `S.a + η ^ 2 * S.b`, then `p`
+is associated with `λ`. -/
+lemma associated_of_dvd_a_add_b_of_dvd_a_add_eta_sq_mul_b {p : 𝓞 K} (hp : Prime p)
+    (hpab : p ∣ (S.a + S.b)) (hpaetasqb : p ∣ (S.a + η ^ 2 * S.b)) : Associated p λ := by
+  by_cases p_lam : (p ∣ λ)
+  · exact hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
+  exfalso
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:416]: Similar here

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/NumberTheory/FLT/Three.lean:446]: Sounds like they should be private

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 4]
```diff
@@ -342,6 +344,295 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+      by rw [coe_eta]; ring, (Units.isUnit η).dvd_mul_left]
+    exact hpab.sub hpaetasqb
+
+/-- If `p : 𝓞 K` is a prime that divides both `S.a + η * S.b` and `S.a + η ^ 2 * S.b`, then `p`
+is associated with `λ`. -/
+lemma associated_of_dvd_a_add_eta_mul_b_of_dvd_a_add_eta_sq_mul_b {p : 𝓞 K} (hp : Prime p)
+    (hpaetab : p ∣ S.a + η * S.b) (hpaetasqb : p ∣ S.a + η ^ 2 * S.b) : Associated p λ := by
+  by_cases p_lam : (p ∣ λ)
+  · exact hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
+  exfalso
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:435]: Ditto

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 5]
```diff
@@ -342,6 +344,295 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+    mul_dvd_mul (mul_dvd_mul h S.lambda_dvd_a_add_eta_mul_b) S.lambda_dvd_a_add_eta_sq_mul_b
+  simp only [← a_cube_add_b_cube_eq_mul, S.H, w_spec, Units.isUnit, IsUnit.dvd_mul_left] at h
+  rw [← pow_succ', mul_comm, ← mul_assoc, ← pow_succ'] at h
+  have := S.two_le_multiplicity
+  rw [show 3 * multiplicity S - 2 + 1 + 1 = 3 * multiplicity S by omega, mul_pow, ← pow_mul,
+    mul_comm _ 3, mul_dvd_mul_iff_left _] at h
+  · exact lambda_not_dvd_w _ <| hζ.zeta_sub_one_prime'.dvd_of_dvd_pow h
+  · simp [hζ.zeta_sub_one_prime'.ne_zero]
+
+attribute [instance] IsCyclotomicExtension.Rat.three_pid
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:516]: Should this be local?

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 6]
```diff
@@ -342,6 +344,295 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+
+lemma coprime_x_y : IsCoprime S.x S.y := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:518]: Let's give all these a name starting with `isCoprime`

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 7]
```diff
@@ -342,6 +344,295 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  refine lambda_not_dvd_y S ?_
+  rw [← Associated.dvd_iff_dvd_left <|
+    associated_of_dvd_a_add_eta_mul_b_of_dvd_a_add_eta_sq_mul_b S hp ?_ ?_]
+  · exact p_dvd_y
+  · rw [y_spec]
+    exact dvd_mul_of_dvd_right p_dvd_y (η - 1)
+  · convert dvd_mul_of_dvd_right p_dvd_z (η - 1) using 1
+    rw [z_spec, coe_eta]
+
+lemma x_mul_y_mul_z_eq_u_w_cube : S.x * S.y * S.z = S.u * S.w ^ 3 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:553]: `u_mul_w_cube` for consistency?

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:443]: Ah sure. Do you know if there is way to make a whole section private?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:443]: It [seems](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/private.20section) there is no simple way.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 8]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+lemma lambda_sq_not_dvd_a_add_eta_sq_mul_b : ¬ λ ^ 2 ∣ (S.a + η ^ 2 * S.b) := by
+  intro ⟨k, hk⟩
+  rcases S.hab with ⟨k', hk'⟩
+  refine S.hb ⟨(k - k') * (-η), ?_⟩
+  rw [show S.a + η ^ 2 * S.b = S.a + S.b - S.b + η ^ 2 * S.b by ring, hk',
+    show λ ^ 2 * k' - S.b + η ^ 2 * S.b = λ * (S.b * (η +1) + λ * k') by rw [coe_eta]; ring,
+    pow_two, mul_assoc] at hk
+  simp only [mul_eq_mul_left_iff, hζ.zeta_sub_one_prime'.ne_zero, or_false] at hk
+  replace hk := congr_arg (fun x => x * (-(η : 𝓞 K))) hk
+  simp only at hk
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:396]: Can this use `apply_fun`?

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 9]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  have := hζ.toInteger_isPrimitiveRoot.isRoot_cyclotomic (by decide)
+  simp only [PNat.val_ofNat, Polynomial.cyclotomic_three, Polynomial.IsRoot.def,
+    Polynomial.eval_add, Polynomial.eval_pow, Polynomial.eval_X, Polynomial.eval_one] at this
+  rw [show (S.b * (η + 1) + λ * k') * -η = (- S.b) * (η ^ 2 + η + 1 - 1) - η * λ * k' by ring,
+    coe_eta, this, zero_sub, mul_neg, mul_one, neg_neg, sub_eq_iff_eq_add] at hk
+  rw [hk, coe_eta]
+  ring
+
+lemma eta_add_one_mul_neg_eta_eq_one : ((η : 𝓞 K) + 1) * (-η) = 1 :=
+  calc ((η : 𝓞 K) + 1) * -η = -(η ^ 2 + η + 1) + 1  := by ring
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:406]:
```suggestion
  calc ((η : 𝓞 K) + 1) * -η = -(η ^ 2 + η + 1) + 1 := by ring
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 10]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+      RingOfIntegers.map_mk, map_neg, map_pow, map_one, this, neg_zero, zero_add]
+
+/-- If `p : 𝓞 K` is a prime that divides both `S.a + S.b` and `S.a + η * S.b`, then `p`
+is associated with `λ`. -/
+lemma associated_of_dvd_a_add_b_of_dvd_a_add_eta_mul_b {p : 𝓞 K} (hp : Prime p)
+    (hpab : p ∣ S.a + S.b) (hpaetab : p ∣ S.a + η * S.b) : Associated p λ := by
+  suffices p_lam : p ∣ λ from hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
+  by_contra p_lam
+  refine hp.not_unit <| IsCoprime.isUnit_of_dvd' S.coprime ?_ ?_
+  · refine (Prime.dvd_or_dvd hp ?_).resolve_left ‹_›
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:422]:
```suggestion
  · refine (hp.dvd_or_dvd ?_).resolve_left ‹_›
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 11]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+    rw [show λ * S.a = η * (S.a + S.b) - (S.a + η * S.b) by rw [coe_eta]; ring]
+    exact dvd_sub (dvd_mul_of_dvd_right hpab _) hpaetab
+  · refine (Prime.dvd_or_dvd hp ?_).resolve_left ‹_›
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:425]:
```suggestion
  · refine (hp.dvd_or_dvd ?_).resolve_left ‹_›
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 12]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+    rw [show λ * S.b = - (1 - η) * S.b by rw [coe_eta]; ring, ← hζ.toInteger_cube_eq_one]
+    rw [show - (hζ.toInteger ^ 3 - η) * S.b = η * ((S.a + S.b) - (S.a + η ^ 2 * S.b))
+      by rw [coe_eta]; ring, (Units.isUnit η).dvd_mul_left]
+    exact hpab.sub hpaetasqb
+
+/-- If `p : 𝓞 K` is a prime that divides both `S.a + η * S.b` and `S.a + η ^ 2 * S.b`, then `p`
+is associated with `λ`. -/
+lemma associated_of_dvd_a_add_eta_mul_b_of_dvd_a_add_eta_sq_mul_b {p : 𝓞 K} (hp : Prime p)
+    (hpaetab : p ∣ S.a + η * S.b) (hpaetasqb : p ∣ S.a + η ^ 2 * S.b) : Associated p λ := by
+  suffices p_lam : (p ∣ λ) from hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:451]:
```suggestion
  suffices p_lam : p ∣ λ from hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 13]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+    exact dvd_sub (dvd_mul_of_dvd_right hpab _) hpaetab
+  · refine (Prime.dvd_or_dvd hp ?_).resolve_left ‹_›
+    rw [show λ * S.b = (S.a + η * S.b) - (S.a + S.b) by rw [coe_eta]; ring]
+    exact dvd_sub hpaetab hpab
+
+/-- If `p : 𝓞 K` is a prime that divides both `S.a + S.b` and `S.a + η ^ 2 * S.b`, then `p`
+is associated with `λ`. -/
+lemma associated_of_dvd_a_add_b_of_dvd_a_add_eta_sq_mul_b {p : 𝓞 K} (hp : Prime p)
+    (hpab : p ∣ (S.a + S.b)) (hpaetasqb : p ∣ (S.a + η ^ 2 * S.b)) : Associated p λ := by
+  suffices p_lam : (p ∣ λ) from hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:433]:
```suggestion
  suffices p_lam : p ∣ λ from hp.associated_of_dvd hζ.zeta_sub_one_prime' p_lam
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 14]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  exact lambda_sq_not_a_add_eta_mul_b _ h
+
+private lemma lambda_not_dvd_z : ¬ λ ∣ S.z := fun h ↦ by
+  replace h := mul_dvd_mul_left ((η : 𝓞 K) - 1) h
+  rw [coe_eta, ← z_spec, ← pow_two] at h
+  exact lambda_sq_not_dvd_a_add_eta_sq_mul_b _ h
+
+/-- We have that `λ ^ (3*S.multiplicity-2)` divides `S.a + S.b`. -/
+lemma lambda_pow_dvd_a_add_b : λ ^ (3 * S.multiplicity - 2) ∣ S.a + S.b := by
+  have h : λ ^ S.multiplicity ∣ S.c  := multiplicity.pow_multiplicity_dvd _
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:486]:
```suggestion
  have h : λ ^ S.multiplicity ∣ S.c := multiplicity.pow_multiplicity_dvd _
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 15]
```diff
@@ -16,6 +18,26 @@ The goal of this file is to prove Fermat Last theorem in the case `n = 3`.
 
 ## TODO
 Prove case 2.
+
+## Implementation details
+We follow the proof in https://webusers.imj-prg.fr/~marc.hindry/Cours-arith.pdf, page 43. The
+strategy is the following:
+* Case 1 is completely elementary and is proved using congruences modulo `9`.
+* To prove case 2, we consider the generalized equation `a ^ 3 + b ^ 3 = u * c ^ 3`, where `a`, `b`,
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/FLT/Three.lean:26]: After reading through the rest of the file... Is this not just `Associated (a ^ 3 + b ^ 3) (c ^ 3)`? (Perhaps we defer checking whether that's an easier formulation after you've landed everything, though.)

**Review by Ruben-VandeVelde — APPROVED** [review]
A few more nitpicks, and one somewhat deeper question (sorry!) Generally looks fine, though.

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 15 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:26]: Yes, what we prove is that `a ^3 + b ^ 3` and `c ^ 3` cannot be associated in `𝓞 K`. I have the feeling we don't gain anything in using `Associated`: in all proofs we would introduce immediately the unit.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 16]
```diff
@@ -16,6 +18,26 @@ The goal of this file is to prove Fermat Last theorem in the case `n = 3`.
 
 ## TODO
 Prove case 2.
+
+## Implementation details
+We follow the proof in https://webusers.imj-prg.fr/~marc.hindry/Cours-arith.pdf, page 43. The
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:23]: Can this be turned into a link in the docs? (Or is this automatic?)

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 17]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  exact dvd_add (dvd_add (dvd_trans (dvd_pow_self _ (by decide)) S.hab) ⟨λ * S.b, by ring⟩)
+    ⟨2 * S.b, by ring⟩
+
+/-- Given `(S : Solution)`, we have that `λ ^ 2` does not divide `S.a + η * S.b`. -/
+lemma lambda_sq_not_a_add_eta_mul_b : ¬ λ ^ 2 ∣ (S.a + η * S.b) := by
+  simp_rw [a_add_eta_mul_b, dvd_add_right S.hab, pow_two, mul_dvd_mul_iff_left
+    hζ.zeta_sub_one_prime'.ne_zero, S.hb, not_false_eq_true]
+
+/-- Given `(S : Solution)`, we have that `λ ^ 2` does not divide `S.a + η ^ 2 * S.b`. -/
+lemma lambda_sq_not_dvd_a_add_eta_sq_mul_b : ¬ λ ^ 2 ∣ (S.a + η ^ 2 * S.b) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:387]: Can you use the automorphism `η ↦ η ^ 2` to reduce this to the previous statement?

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 18]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+    Polynomial.eval_add, Polynomial.eval_pow, Polynomial.eval_X, Polynomial.eval_one] at this
+  rw [show (S.b * (η + 1) + λ * k') * -η = (- S.b) * (η ^ 2 + η + 1 - 1) - η * λ * k' by ring,
+    coe_eta, this, zero_sub, mul_neg, mul_one, neg_neg, sub_eq_iff_eq_add] at hk
+  rw [hk, coe_eta]
+  ring
+
+lemma eta_add_one_mul_neg_eta_eq_one : ((η : 𝓞 K) + 1) * (-η) = 1 :=
+  calc ((η : 𝓞 K) + 1) * -η = -(η ^ 2 + η + 1) + 1 := by ring
+  _ = 1 := by
+    ext
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:408]: Didn't you have a lemma somewhere saying that `η ^ 2 + η + 1 = 0` ?

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 19]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+    have := hζ.isRoot_cyclotomic (by decide)
+    simp only [PNat.val_ofNat, Polynomial.cyclotomic_three, Polynomial.IsRoot.def,
+      Polynomial.eval_add, Polynomial.eval_pow, Polynomial.eval_X, Polynomial.eval_one] at this
+    simp only [IsUnit.unit_spec, RingOfIntegers.neg_mk, neg_add_cancel_comm, map_add,
+      RingOfIntegers.map_mk, map_neg, map_pow, map_one, this, neg_zero, zero_add]
+
+/-- If `p : 𝓞 K` is a prime that divides both `S.a + S.b` and `S.a + η * S.b`, then `p`
+is associated with `λ`. -/
+lemma associated_of_dvd_a_add_b_of_dvd_a_add_eta_mul_b {p : 𝓞 K} (hp : Prime p)
+    (hpab : p ∣ S.a + S.b) (hpaetab : p ∣ S.a + η * S.b) : Associated p λ := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:418]: `hpaetab` is hard to read. Maybe `hpaηb` ? :smile:

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 20]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  · refine (hp.dvd_or_dvd ?_).resolve_left ‹_›
+    rw [show λ * S.a = η * (S.a + S.b) - (S.a + η * S.b) by rw [coe_eta]; ring]
+    exact dvd_sub (dvd_mul_of_dvd_right hpab _) hpaetab
+  · refine (hp.dvd_or_dvd ?_).resolve_left ‹_›
+    rw [show λ * S.b = (S.a + η * S.b) - (S.a + S.b) by rw [coe_eta]; ring]
+    exact dvd_sub hpaetab hpab
+
+/-- If `p : 𝓞 K` is a prime that divides both `S.a + S.b` and `S.a + η ^ 2 * S.b`, then `p`
+is associated with `λ`. -/
+lemma associated_of_dvd_a_add_b_of_dvd_a_add_eta_sq_mul_b {p : 𝓞 K} (hp : Prime p)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:431]: What about a general lemma that says something like "`p ∣ a*x + b*y` and `p ∣ c*x + d*y` imply that `p` divides `(a*d-b*c) * gcd x y`" ? That could simplify this proof and the next.

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 21]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+/-- We have that `λ ^ (3*S.multiplicity-2)` divides `S.a + S.b`. -/
+lemma lambda_pow_dvd_a_add_b : λ ^ (3 * S.multiplicity - 2) ∣ S.a + S.b := by
+  have h : λ ^ S.multiplicity ∣ S.c := multiplicity.pow_multiplicity_dvd _
+  replace h : (λ ^ multiplicity S) ^ 3 ∣ S.u * S.c ^ 3 := by simp [h]
+  rw [← S.H, a_cube_add_b_cube_eq_mul, ← pow_mul, mul_comm, y_spec, z_spec] at h
+  apply hζ.zeta_sub_one_prime'.pow_dvd_of_dvd_mul_left _ S.lambda_not_dvd_z
+  apply hζ.zeta_sub_one_prime'.pow_dvd_of_dvd_mul_left _ S.lambda_not_dvd_y
+  have := S.two_le_multiplicity
+  rw [show 3 * multiplicity S = 3 * multiplicity S - 2 + 1 + 1 by omega, pow_succ, pow_succ,
+    show (S.a + S.b) * (λ * y S) * (λ * z S) = (S.a + S.b) * y S * z S * λ * λ by ring,] at h
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:493]:
```suggestion
    show (S.a + S.b) * (λ * y S) * (λ * z S) = (S.a + S.b) * y S * z S * λ * λ by ring] at h
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 22]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  simp only [mul_dvd_mul_iff_right hζ.zeta_sub_one_prime'.ne_zero] at h
+  rwa [show (S.a + S.b) * y S * z S = y S * (z S * (S.a + S.b)) by ring] at h
+
+/-- Given `S : Solution`, we let `S.x` be any element such that
+`S.a + S.b = λ ^ (3*S.multiplicity-2) * S.x` -/
+private noncomputable def x := (lambda_pow_dvd_a_add_b S).choose
+
+private lemma x_spec : S.a + S.b = λ ^ (3*S.multiplicity-2) * S.x :=
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:501]:
```suggestion
private lemma x_spec : S.a + S.b = λ ^ (3 * S.multiplicity - 2) * S.x :=
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 23]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  (lambda_pow_dvd_a_add_b S).choose_spec
+
+/-- Given `S : Solution`, we let `S.w` be any element such that `S.c = λ ^ S.multiplicity * S.w` -/
+private noncomputable def w :=
+  (multiplicity.pow_multiplicity_dvd S.toSolution'.multiplicity_lambda_c_finite).choose
+
+private lemma w_spec : S.c = λ ^ S.multiplicity * S.w :=
+(multiplicity.pow_multiplicity_dvd S.toSolution'.multiplicity_lambda_c_finite).choose_spec
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:509]:
```suggestion
  (multiplicity.pow_multiplicity_dvd S.toSolution'.multiplicity_lambda_c_finite).choose_spec
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 24]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  intro p hp p_dvd_y p_dvd_z
+  refine lambda_not_dvd_y S ?_
+  rw [← Associated.dvd_iff_dvd_left <|
+    associated_of_dvd_a_add_eta_mul_b_of_dvd_a_add_eta_sq_mul_b S hp ?_ ?_]
+  · exact p_dvd_y
+  · rw [y_spec]
+    exact dvd_mul_of_dvd_right p_dvd_y (η - 1)
+  · convert dvd_mul_of_dvd_right p_dvd_z (η - 1) using 1
+    rw [z_spec, coe_eta]
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:569]: The preceding three proofs are all very similar. Can some common argument be extracted, or are they too different for that?

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 25]
```diff
@@ -342,6 +364,292 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  have h1 : S.z * (S.x * S.y * S.u⁻¹) = S.w ^ 3 := by
+    rw [← mul_assoc, ← mul_assoc S.z, mul_comm S.z, mul_assoc S.x, mul_comm S.z, ← mul_assoc,
+      x_mul_y_mul_z_eq_u_mul_w_cube]
+    simp only [mul_comm _ (S.w ^ 3), mul_assoc, mul_right_inv, Units.mul_inv, mul_one]
+  have h2 : IsCoprime S.z (S.x * S.y * S.u⁻¹) :=
+    (isCoprime_mul_unit_right_right (Units.isUnit _) S.z _).2 <|
+      IsCoprime.mul_right S.isCoprime_x_z.symm S.isCoprime_y_z.symm
+  rcases exists_associated_pow_of_mul_eq_pow' h2 h1 with ⟨Z, ⟨u₃, hZ⟩⟩
+  exact ⟨u₃, Z, by simp [← hZ, mul_comm]⟩
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/FLT/Three.lean:617]: I think it would make sense to generalize [exists_associated_pow_of_mul_eq_pow'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PrincipalIdealDomain.html#exists_associated_pow_of_mul_eq_pow') to have `Associated (a * b) (c ^ k)` as an assumption and a conjunction (`a` and `b` both are associated to a `k`th power) as the conclusion. Then this could simply be applied twice to get all three statements above.

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 17 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:387]: I've golfed the proof a little, but I don't think there is an easy way of using `η ↦ η ^ 2`: `S.a` and `S.b` are in `𝓞 K`, not in `ℤ`.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/FLT/Three.lean:387]: Yes, but the automorphism should send solutions to solutions, so one could use the previous lemma for the image (= preimage) of `S` and then apply the automorphism. But it is maybe not so clear that this will save much overall (since one needs some API for the automorphism). So I'm OK with leaving it as is.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:387]: Yes, I think the API would be longer, and almost surely useless besides this file.

**Comment by riccardobrasca** [comment]
!bench

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 24 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:540]: They're now very short via `isCoprime_helper`. Thanks for the remark, I wouldn't had the energy to do that otherwise, but it is definitely better.

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 25 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean]: Done, thanks!

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/FLT/Three.lean]: What I had in mind is
```lean
variable {R} [CommRing R] [IsDomain R] [IsBezout R]

theorem exists_associated_pow_of_associated_mul_pow {a b c : R} (hab : IsCoprime a b) {k : ℕ}
    (h : Associated (a * b) (c ^ k)) : ∃ d : R, Associated a (d ^ k) := by
  obtain ⟨u, hu⟩ := h
  rw [mul_assoc] at hu
  obtain ⟨x, hx⟩ := exists_associated_pow_of_mul_eq_pow'
    ((isCoprime_mul_unit_right_right u.isUnit a b).mpr hab) hu
  exact ⟨x, hx.symm⟩

theorem exists_associated_pow_of_associated_mul_pow' {a b c : R} (hab : IsCoprime a b) {k : ℕ}
    (h : Associated (a * b) (c ^ k)) :
    (∃ x : R, Associated a (x ^ k)) ∧ ∃ y : R, Associated b (y ^ k) :=
  ⟨exists_associated_pow_of_associated_mul_pow hab h,
    exists_associated_pow_of_associated_mul_pow hab.symm (mul_comm a b ▸ h)⟩
```
and then
```lean
private lemma exists_cube_associated : 
    (∃ (X : 𝓞 K), Associated S.x (X ^ 3)) ∧ (∃ (Y : 𝓞 K), Associated S.y (Y ^ 3) ) ∧
      ∃ (Z : 𝓞 K), Associated S.z (Z ^ 3) := by
  obtain ⟨⟨xy, hxy⟩, hz⟩ :=  exists_associated_pow_of_associated_mul_pow' ... -- for (S.x * S.y) * S.z ~ S.w ^ 3
  obtain ⟨hx, hy⟩ := exists_associated_pow_of_associated_mul_pow' S.isCoprime_x_y hxy
  exact ⟨hx, hy, hz⟩
```
where the arguments to the first `exists_associated_pow_of_associated_mul_pow` need to be filled in (something like `IsCoprime.mul_left S.isCoprime_x_z S.isCoprime_y_z` and the statement `Associated (S.x * S.y * S.z) (S.w ^ 3)`, which is still proved three times in the current code (in slight variations)).
(See [here](https://live.lean-lang.org/#code=import%20Mathlib%0A%0Avariable%20%7BR%7D%20%5BCommRing%20R%5D%20%5BIsDomain%20R%5D%20%5BIsBezout%20R%5D%0A%0Atheorem%20exists_associated_pow_of_associated_mul_pow%20%7Ba%20b%20c%20%3A%20R%7D%20(hab%20%3A%20IsCoprime%20a%20b)%20%7Bk%20%3A%20%E2%84%95%7D%0A%20%20%20%20(h%20%3A%20Associated%20(a%20*%20b)%20(c%20%5E%20k))%20%3A%20%E2%88%83%20d%20%3A%20R%2C%20Associated%20a%20(d%20%5E%20k)%20%3A%3D%20by%0A%20%20obtain%20%E2%9F%A8u%2C%20hu%E2%9F%A9%20%3A%3D%20h%0A%20%20rw%20%5Bmul_assoc%5D%20at%20hu%0A%20%20obtain%20%E2%9F%A8x%2C%20hx%E2%9F%A9%20%3A%3D%20exists_associated_pow_of_mul_eq_pow'%0A%20%20%20%20((isCoprime_mul_unit_right_right%20u.isUnit%20a%20b).mpr%20hab)%20hu%0A%20%20exact%20%E2%9F%A8x%2C%20hx.symm%E2%9F%A9%0A%0Atheorem%20exists_associated_pow_of_associated_mul_pow'%20%7Ba%20b%20c%20%3A%20R%7D%20(hab%20%3A%20IsCoprime%20a%20b)%20%7Bk%20%3A%20%E2%84%95%7D%0A%20%20%20%20(h%20%3A%20Associated%20(a%20*%20b)%20(c%20%5E%20k))%20%3A%0A%20%20%20%20(%E2%88%83%20x%20%3A%20R%2C%20Associated%20a%20(x%20%5E%20k))%20%E2%88%A7%20%E2%88%83%20y%20%3A%20R%2C%20Associated%20b%20(y%20%5E%20k)%20%3A%3D%0A%20%20%E2%9F%A8exists_associated_pow_of_associated_mul_pow%20hab%20h%2C%0A%20%20%20%20exists_associated_pow_of_associated_mul_pow%20hab.symm%20(mul_comm%20a%20b%20%E2%96%B8%20h)%E2%9F%A9%0A%20%20%0A%0Avariable%20%7Bw%20x%20y%20z%20%3A%20R%7D%20(H%20%3A%20Associated%20(x%20*%20y%20*%20z)%20(w%20%5E%203))%0A%0Avariable%20(Hxy%20%3A%20IsCoprime%20x%20y)%20(Hxz%20%3A%20IsCoprime%20x%20z)%20(Hyz%20%3A%20IsCoprime%20y%20z)%0A%0Alemma%20exists_cube_associated%20%3A%20%0A%20%20%20%20(%E2%88%83%20X%2C%20Associated%20x%20(X%20%5E%203))%20%E2%88%A7%20(%E2%88%83%20Y%2C%20Associated%20y%20(Y%20%5E%203))%20%E2%88%A7%0A%20%20%20%20%20%20%E2%88%83%20Z%2C%20Associated%20z%20(Z%20%5E%203)%20%3A%3D%20by%0A%20%20obtain%20%E2%9F%A8%E2%9F%A8xy%2C%20hxy%E2%9F%A9%2C%20hz%E2%9F%A9%20%3A%3D%0A%20%20%20%20exists_associated_pow_of_associated_mul_pow'%20(IsCoprime.mul_left%20Hxz%20Hyz)%20H%0A%20%20obtain%20%E2%9F%A8hx%2C%20hy%E2%9F%A9%20%3A%3D%20exists_associated_pow_of_associated_mul_pow'%20Hxy%20hxy%0A%20%20exact%20%E2%9F%A8hx%2C%20hy%2C%20hz%E2%9F%A9%0A%0A).)

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/FLT/Three.lean]: (The names may need some permuting to fit with the changed order in `Associated` in the statements.)

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean]: Let me think a little bit about it, but:
* I think the conclusion of `exists_associated_pow_of_associated_mul_pow` should be `Associated (d ^ k) a` (and not the other way) to match the one of `exists_associated_pow_of_mul_eq_pow'`. But indeed the assumption should be `Associated (c ^ k) (a * b)` to match the order.
* I am not completely sure it is worth to add `exists_associated_pow_of_associated_mul_pow'`: it is basically a twe copies of the umprimed version, and if needed can be inlined.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean]: I've proved your `exists_cube_associated` essentially as you proposed, but without adding `exists_associated_pow_of_associated_mul_pow'`. Thanks for the suggestion!

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 26]
```diff
@@ -82,7 +82,7 @@ private lemma lambda_sq : λ ^ 2 = -3 * η := by
   _ = -3 * η := by ring
 
 /-- We have that `η ^ 2 = -η - 1`. -/
-private lemma eta_sq : (η ^ 2 : 𝓞 K) = - η - 1 := by
+lemma eta_sq : (η ^ 2 : 𝓞 K) = - η - 1 := by
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:85]: Why are you finaling removing the private attribute?

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean [hunk 27]
```diff
@@ -91,3 +92,32 @@ lemma add_pow_dvd_pow_of_pow_eq_zero_left (hy : y ^ n = 0) :
 end Ring
 
 end Commute
+section CommRing
+
+variable [CommRing R]
```
Comment (faenuccio) [inline Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:97]: Stupid question: are the two lemma below false in the non-commutative setting?

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 28]
```diff
@@ -16,6 +19,26 @@ The goal of this file is to prove Fermat Last theorem in the case `n = 3`.
 
 ## TODO
 Prove case 2.
+
+## Implementation details
+We follow the proof in <https://webusers.imj-prg.fr/~marc.hindry/Cours-arith.pdf>, page 43. The
+strategy is the following:
```
Comment (faenuccio) [inline Mathlib/NumberTheory/FLT/Three.lean:25]:
```suggestion
The strategy is the following:
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 29]
```diff
@@ -16,6 +19,26 @@ The goal of this file is to prove Fermat Last theorem in the case `n = 3`.
...
+* Case 1 is completely elementary and is proved using congruences modulo `9`.
+* To prove case 2, we consider the generalized equation `a ^ 3 + b ^ 3 = u * c ^ 3`, where `a`, `b`,
+  and `c` are in the cyclotomic ring `ℤ[ζ₃]` (where `ζ₃` is a primitive cube root of unity) and `u`
+  is a unit of `ℤ[ζ₃]`. `FermatLastTheoremForThree_of_FermatLastTheoremThreeGen` (whose proof is
+  rather elementary on paper) says that to prove Fermat's last theorem for exponent `3`, it is
+  enough to prove that this equation has no  solutions such that `c ≠ 0`, `¬ λ ∣ a`, `¬ λ ∣ b`,
```
Comment (faenuccio) [inline Mathlib/NumberTheory/FLT/Three.lean:31]:
```suggestion
  enough to prove that this equation has no solutions such that `c ≠ 0`, `¬ λ ∣ a`, `¬ λ ∣ b`,
```

Comment (faenuccio) [reply Mathlib/NumberTheory/FLT/Three.lean:31]: Can you say what is lambda in this doc?

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 30]
```diff
@@ -343,6 +366,226 @@ lemma exists_Solution_of_Solution' : ∃ (S₁ : Solution hζ), S₁.multiplicit
...
+  (multiplicity.pow_multiplicity_dvd S.toSolution'.multiplicity_lambda_c_finite).choose
+
+private lemma w_spec : S.c = λ ^ S.multiplicity * S.w :=
+  (multiplicity.pow_multiplicity_dvd S.toSolution'.multiplicity_lambda_c_finite).choose_spec
+
+private lemma lambda_not_dvd_w : ¬ λ ∣ S.w := by
+  intro h
+  replace h := mul_dvd_mul_left (λ ^ S.multiplicity) h
+  rw [← w_spec] at h
+  have hh : _ := multiplicity.is_greatest' S.toSolution'.multiplicity_lambda_c_finite
```
Comment (faenuccio) [inline Mathlib/NumberTheory/FLT/Three.lean:498]:
```suggestion
  have hh := multiplicity.is_greatest' S.toSolution'.multiplicity_lambda_c_finite
```

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 31]
```diff
@@ -16,6 +19,26 @@ The goal of this file is to prove Fermat Last theorem in the case `n = 3`.
...
+  `λ ∣ c` and `IsCoprime a b`. We call such a tuple a `Solution'`. A `Solution` is the same as a
+  `Solution'` with the additional assumption that `λ ^ 2 ∣ a + b`. We then prove that, given
+  `S' : Solution'`, there is `S : Solution` such that the multiplicity of `λ = ζ₃ - 1` in `c` is
+  the same in `S'` and `S`. In particular it is enough to prove that no `Solution` exists.
+  The key point is a descent argument on the multiplicity of `λ` in `c`: starting with
+  `S : Solution` we can find `S₁ : Solution` with multiplicity strictly smaller and this finishes
+  the proof. To construct `S₁` we go through a `Solution'` and then back to a `Solution`. More
+  importantly, we cannot control the unit `u`, and this is the reason why we need to consider
+  the generalized equation `a ^ 3 + b ^ 3 = u * c ^ 3`.
+
```
Comment (faenuccio) [inline Mathlib/NumberTheory/FLT/Three.lean:41]: Perhaps you could add a couple (not a thousand...) of pointers to the code, explaining how to bridge the informal-formal gap between your explanation above and what happens below.

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 32]
```diff
@@ -489,6 +489,14 @@ theorem exists_associated_pow_of_mul_eq_pow' {a b c : R} (hab : IsCoprime a b) {
   exact exists_associated_pow_of_mul_eq_pow ((gcd_isUnit_iff _ _).mpr hab) h
 #align exists_associated_pow_of_mul_eq_pow' exists_associated_pow_of_mul_eq_pow'
 
+theorem exists_associated_pow_of_associated_mul_pow {a b c : R} (hab : IsCoprime a b) {k : ℕ}
```
Comment (faenuccio) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean:492]: shuold it be `...of_associated_mul_pow` or `...of_associated_pow_mul`? In general, what is the naming convention for associated things?

**Review by faenuccio — COMMENTED** [review]
I left some minor comments, but overall LGTM.

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 26 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:85]: Because I need it in the other file.

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean (hunk 27 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:97]: TBH I don't know, the proof surely doesn't work (in practice you write introduce `k1` and `k2`, write the two relation as a matrix multiplication, multiply by the adjugate matrix and the determinant does its magic: this only works over commutative rings).

File: Mathlib/RingTheory/PrincipalIdealDomain.lean (hunk 32 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PrincipalIdealDomain.lean:492]: You're right, I switched the order at some point and didn't change the name.

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 31 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/FLT/Three.lean:41]: I've added a pointer to `exists_Solution_of_Solution'`. The rest of the argument will be formalized in the final PR and I will add more pointers.

Comment (faenuccio) [reply Mathlib/NumberTheory/FLT/Three.lean:41]: Thanks! Then I have nothing more to comment, I believe.

**Comment by faenuccio** [comment]
maintainer merge

File: Mathlib/RingTheory/PrincipalIdealDomain.lean [hunk 33]
```diff
@@ -489,6 +489,14 @@ theorem exists_associated_pow_of_mul_eq_pow' {a b c : R} (hab : IsCoprime a b) {
   exact exists_associated_pow_of_mul_eq_pow ((gcd_isUnit_iff _ _).mpr hab) h
 #align exists_associated_pow_of_mul_eq_pow' exists_associated_pow_of_mul_eq_pow'
 
+theorem exists_associated_pow_of_associated_pow_mul {a b c : R} (hab : IsCoprime a b) {k : ℕ}
+    (h : Associated (c ^ k) (a * b)) : ∃ d : R, Associated (d ^ k) a := by
+  obtain ⟨u, hu⟩ := h
+  apply_fun (· * u⁻¹.1) at hu
+  rw [mul_assoc, Units.mul_inv, mul_one, mul_assoc] at hu
+  exact exists_associated_pow_of_mul_eq_pow'
+    ((isCoprime_mul_unit_right_right u⁻¹.isUnit a b).mpr hab) hu.symm
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/PrincipalIdealDomain.lean:498]: Slight simplification:
```suggestion
  obtain ⟨u, hu⟩ := h.symm
  rw [mul_assoc] at hu
  exact exists_associated_pow_of_mul_eq_pow'
    ((isCoprime_mul_unit_right_right u.isUnit a b).mpr hab) hu
```

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean [hunk 34]
```diff
@@ -91,3 +92,32 @@ lemma add_pow_dvd_pow_of_pow_eq_zero_left (hy : y ^ n = 0) :
...
+  ring
+
+lemma dvd_mul_sub_mul_mul_right_of_dvd {p a b c d x y : R}
+    (h1 : p ∣ a * x + b * y) (h2 : p ∣ c * x + d * y) : p ∣ (a * d - b * c) * y := by
+  obtain ⟨k1, hk1⟩ := h1
+  obtain ⟨k2, hk2⟩ := h2
+  refine ⟨-c * k1 + a * k2, ?_⟩
+  rw [show (a * d - b * c) * y = d * y * a - b * y * c by ring, eq_sub_of_add_eq' hk1,
+    eq_sub_of_add_eq' hk2]
+  ring
```
Comment (kbuzzard) [inline Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:115]:
```suggestion
lemma dvd_mul_sub_mul_mul_right_of_dvd {p a b c d x y : R}
    (h1 : p ∣ a * x + b * y) (h2 : p ∣ c * x + d * y) : p ∣ (a * d - b * c) * y :=
  (mul_comm a _ ▸ mul_comm c _ ▸ dvd_mul_sub_mul_mul_left_of_dvd 
    (add_comm (c * x) _ ▸ h2) (add_comm (a * x) _ ▸ h1))
```
What do you think about deducing it from the previous lemma? This proof is about twice as fast and doesn't involve any fancy tactics like `ring`, but I'm ambivalent about whether it's better.

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean [hunk 35]
```diff
@@ -91,3 +92,32 @@ lemma add_pow_dvd_pow_of_pow_eq_zero_left (hy : y ^ n = 0) :
...
 end Commute
+section CommRing
+
+variable [CommRing R]
+
+lemma dvd_mul_sub_mul_mul_left_of_dvd {p a b c d x y : R}
+    (h1 : p ∣ a * x + b * y) (h2 : p ∣ c * x + d * y) : p ∣ (a * d - b * c) * x := by
+  obtain ⟨k1, hk1⟩ := h1
+  obtain ⟨k2, hk2⟩ := h2
+  refine ⟨d * k1 - b * k2, ?_⟩
```
Comment (kbuzzard) [inline Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:103]: `polyrith` solves this in one line now, as does `  linear_combination d * hk1 - b * hk2`, but neither is imported :-/ I guess this more low-level way works.

**Review by kbuzzard — APPROVED** [review]
Thanks a lot! I've left some pernickety comments.

bors d+

File: Mathlib/Algebra/Ring/Divisibility/Lemmas.lean (hunk 35 above)
Comment (riccardobrasca) [reply Mathlib/Algebra/Ring/Divisibility/Lemmas.lean:103]: Yes, I thought about that, but I think this is so easy with `ring` that it is not worth to add a new `import`.

**Comment by riccardobrasca** [comment]
bors merge
